US04206225
To a solution of dimethylsulfoxonium methylide (69.4 mM) in dimethyl sulfoxide (65 ml.) at room temperature is added solid 2,5-dimethoxyacetophenone (10 g., 55.5 mM). The reaction mixture is stirred for one hour at 25° C., for one-half hour at 50° C. and is then cooled. The mixture is diluted with water (50 ml.) and added to a mixture of ice water (200 ml.)--ether (250 ml.)--low boiling petroleum ether (25 ml.). The organic extract is washed twice with water (250 ml.), dried (MgSO4) and evaporated to an oil. Fractional distillation of the oil yields 2,5-dimethoxy-α-methylstyrene oxide.

reactant | dimethylsulfoxonium methylide | 69.4 mM | CS(=C)(=O)C | C3H8OS
reactant | 2,5-dimethoxyacetophenone | 55.5 mM, 10 g | CC(=O)C1=C(C=CC(=C1)OC)OC | C10H12O3
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | dimethyl sulfoxide | 65 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | 2,5-dimethoxy-α-methylstyrene oxide | COC1=C(C2(CO2)C)C=C(C=C1)OC | C11H14O3
